* vco_ct_pvt.spice -- does the coarse-trimmed ring reach the baud rate at every
* corner?
*
* The untrimmed ring reaches 600.6 MHz at 8 of 27 corners.  That is the one
* open problem the coarse loop exists to fix, and this deck is the test of
* whether it does.
*
* Only two points per corner are needed, not a tuning curve: the slowest the
* ring can be made (trim fully off, tail current at its minimum) and the
* fastest (trim fully on, tail at maximum).  If 600.6 MHz lies between them the
* corner is covered, because the ring is monotonic in both knobs.  That is 18
* transients per process corner instead of the 36 the untrimmed sweep needed,
* which is what makes a 27-corner answer affordable at all.
*
* Run once per process corner:
*   tools/safe_ngspice.sh vco_ct_pvt.spice ../results/vco_ctpvt_tt.log
* after editing the cornerMOSlv line -- a .lib section is fixed at parse time
* and genuinely needs one run each.  See CLAUDE.md section 2.
.control
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/r3_cmc.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/cap_cmomf.osdi
.endc

.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOSlv.lib mos_ss
.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerRES.lib  res_typ
.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerCAP.lib  cap_typ

.include ../netlists/blocks.inc
.include ring_ct.inc

.global sub!
Vsub sub! 0 0
VDD VDD 0 1.2
VSS VSS 0 0
Vc   vctrl   0 0.6
Vcrs vcoarse 0 1.2

x1 VDD VSS vctrl vcoarse vop vom ring_ct
.ic v(vop)=1.0 v(vom)=0.4
.options method=gear reltol=1e-4 abstol=1e-12 vntol=1e-6

.control
save v(vop) v(vom) v(x1.net1)
* vcoarse tracks the supply in the real circuit (its thresholds come from a
* divider off VDD), so the "trim off" point is VDD, not a fixed 1.2 V.
foreach tmp -40 27 125
 foreach vd 1.08 1.2 1.32
  set temp = $tmp
  alter VDD = $vd
  * (crs, ctl) = slowest corner of the knob space, then fastest.
  foreach pt 1 2
   if $pt = 1
     alter Vcrs dc = $vd
     alter Vc   dc = 0.45
   else
     alter Vcrs dc = 0.0
     alter Vc   dc = $vd
   end
   tran 5p 120n
   let p_temp = $tmp
   let p_vdd  = $vd
   let p_pt   = $pt
   meas tran t1 when v(vop)=v(vom) rise=6
   meas tran t2 when v(vop)=v(vom) rise=26
   let fosc = 20 / (t2 - t1)
   * Filter on the ring node's own swing, not the buffered output: the buffer
   * is rail to rail whatever the ring does, so a dead ring still measures a
   * healthy "swing" there and a meas on a flat node reports nonsense.
   meas tran vmax max v(x1.net1) from=60n to=120n
   meas tran vmin min v(x1.net1) from=60n to=120n
   let swing = vmax - vmin
   print p_temp p_vdd p_pt fosc swing
  end
 end
end
quit
.endc
.end
